US08183264B2
3-Trimethylsilanylethynyl-pyridin-2-ylamine
To a NMP (120 mL) solution of 2-amino-3-bromopyridine (5.72 g, 33.1 mmol) were added trimethylsilylacetylene (9.36 mL, 66.2 mmol), tetrakis(triphenylphosphine)palladium(0) (1.91 g, 1.66 mmol), copper(I) iodide (630 mg, 3.31 mmol), and N,N-diisopropylethylamine (11.5 mL, 66.2 mmol) at room temperature, which was stirred for 6 hours at 70° C. under a nitrogen atmosphere. Water was added at 0° C. to the reaction solution, and then extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine, after which it was dried over anhydrous magnesium sulfate and filtered, and then the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel chromatography (heptane:ethyl acetate=2:1) to obtain the titled compound (5.9 g).

reactant | NMP | 120 mL | CN1CCCC1=O | C5H9NO
reactant | 2-amino-3-bromopyridine | 33.1 mmol, 5.72 g | NC1=NC=CC=C1Br | C5H5BrN2
reactant | trimethylsilylacetylene | 66.2 mmol, 9.36 mL | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 66.2 mmol, 11.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.66 mmol, 1.91 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 3.31 mmol, 630 mg | [Cu]I
solvent | Water | O | H2O
product | 3-Trimethylsilanylethynyl-pyridin-2-ylamine | 5.9 g | C[Si](C)(C)C#CC=1C(=NC=CC1)N | C10H14N2Si
